US04007227
Approximately 5.9 grams (0.04M) of 1-oximino-2-chlorocyclohexane is dissolved in 90 ml. of benzene and the solution is cooled to 10° C. About 8.1 gm. (0.04M) bromoacetyl bromide, diluted with 10 ml. of benzene, and 4.9 grams (6.7 ml.) of triethylamine are added dropwise simultaneously to the solution. Stirring is continued for 30 minutes and the mixture is allowed to come to room temperature. The mixture is then washed twice with water, twice with a mild NaHCO3 solution, and again with water. The mixture is then dried over MgSO4, and the solvent is evaporated to give the product 2-chlorocyclohexanone oxime bromoacetate.

reactant | 1-oximino-2-chlorocyclohexane | 0.04M, 5.9 grams | N(O)=C1C(CCCC1)Cl | C6H10ClNO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | bromoacetyl bromide | 0.04M | BrCC(=O)Br | C2H2Br2O
solvent | triethylamine | 6.7 ml, 4.9 grams | C(C)N(CC)CC | C6H15N
product | 2-chlorocyclohexanone oxime bromoacetate | BrCC(=O)O.ClC1C(CCCC1)=NO | InChI=1S/C6H10ClNO.C2H3BrO2/c7-5-3-1-2-4-6(5)8-9;3-1-2(4)5/h5,9H,1-4H2;1H2,(H,4,5)
